US04806536
A solution of 2-chloro-4-nitropyridine (4.89 g), and piperazine (7.90 g) in pyridine (90 ml) was heated under reflux for 5 hours and then evaporated. The residue was dissolved in water and the solution was basified with sodium bicarbonate (to pH 8-9) and then continuously extracted with dichloromethane. The extract was dried (Na2SO4) and evaporated to give an oil which was chromatographed on silica gel. Elution with dichloromethane/methanol/concentrated aqueous ammonia (98:2:1) first gave a solid that was crystallised from ethyl acetate/hexane to give 1-[4-nitro-2-pyridinyl]piperazine (1.21 g), m.p. 92°-93° C.

reactant | 2-chloro-4-nitropyridine | 4.89 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | piperazine | 7.90 g | N1CCNCC1 | C4H10N2
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
product | 1-[4-nitro-2-pyridinyl]piperazine | 1.21 g | [N+](=O)([O-])C1=CC(=NC=C1)N1CCNCC1 | C9H12N4O2
